US09029539B2
c) 1,1-Bis(6-phenyl-2-pyridyl)-1-fluoroethane
600 μl (2.6 mmol) of tri-tert-butylphosphine and 449 mg (2.0 mmol) of palladium(II) acetate were added to a degassed suspension of 18.0 g (50 mmol) of 1,1-bis(6-bromo-2-pyridyl)-1-fluoroethane, 24.4 g (200 mmol) of benzeneboronic acid and 19.2 g (330 mmol) of potassium fluoride in 350 ml of THF, and the mixture was heated under reflux for 3 h with stirring. After cooling, the THF was removed under reduced pressure, and the residue was taken up in 500 ml of dichloromethane and washed three times with 300 ml of water. After drying over magnesium sulfate, filtration through silica gel and stripping-off of the solvent, the yellow oil remaining was recrystallised three times from ethanol, giving 15.7 g (44 mmol) of the product, corresponding to a yield of 88.6%, in the form of colourless crystal needles—purity according to 1H-NMR>99%.

reactant | 1,1-bis(6-bromo-2-pyridyl)-1-fluoroethane | 50 mmol, 18.0 g | BrC1=CC=CC(=N1)C(C)(F)C1=NC(=CC=C1)Br | C12H9Br2FN2
reactant | benzeneboronic acid | 200 mmol, 24.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium fluoride | 330 mmol, 19.2 g | [F-].[K+]
solvent | THF | 350 ml | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 2.0 mmol, 449 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-tert-butylphosphine | 2.6 mmol, 600 μl | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 1,1-Bis(6-phenyl-2-pyridyl)-1-fluoroethane | 44 mmol, 15.7 g, yield of 88.6% | C1(=CC=CC=C1)C1=CC=CC(=N1)C(C)(F)C1=NC(=CC=C1)C1=CC=CC=C1 | C24H19FN2
